US05705499
b) 2-Chloro-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a mixture of 2-chloro-5,11-dihydro-11-ethyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (2.3 g, 5.9 mmol) and palladium black (0.25 g) in 30 mL of 1,4-dioxane was added a solution of sodium hypophosphite (0.82 g 7.7 mmol) in 15 mL of water. The reaction mixture was heated at 80°-90° C. for 3 hours. The reaction mixture was then filtered through Celite and extracted with ethyl acetate. The product was purified by chromatography over silica gel, eluting with methanol/dichloromethane, and recrystallized from ethyl acetate/hexanes to give 1.75 g of the title compound as colorless crystals, m.p. 158°-159° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-[trans-2-(4-pyridyl)ethen-1-yl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 5.9 mmol, 2.3 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)\C=C\C3=CC=NC=C3)=O)C | C21H18ClN5O
reactant | sodium hypophosphite | 7.7 mmol, 0.82 g | [PH2](=O)[O-].[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
catalyst | palladium black | 0.25 g | [Pd] | Pd
product | 2-Chloro-5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 1.75 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC=NC=C3)=O)C | C21H20ClN5O
